US07189739B2
L. Preparation of 1-(Diethylaminoethyl)-6-methoxy-(4-benzylpiperidinyl)-indole-5-carboxamide
0.3 g (0.862 mmol) of 6-methoxy-(4-benzylpiperidinyl)-indole-5-carboxamide was dissolved in 20 mL dry DMF. It was cooled in an ice-bath and reacted with 0.12 g NaH (3 mmol, 60% suspension). 0.172 mg (1 mmol) of 2-(diethylamino)-ethylchloride hydrochloride was added and the mixture was stirred for 18 h. The reaction mixture was poured in to water and extracted with dichloromethane (3×75 mL). The combined extract was washed again with water, dried over anhydrous MgSO4, evaporated and purified by silica gel chromatography on a chromatotron using CH2Cl2-Methanol (95:5) to yield 0.22 g of the desired product. It was converted to the HCl salt and lyophilized, M+ 448.

reactant | 6-methoxy-(4-benzylpiperidinyl)-indole-5-carboxamide | 0.862 mmol, 0.3 g | COC1=C(C=C2C=C(NC2=C1)N1CCC(CC1)CC1=CC=CC=C1)C(=O)N | C22H25N3O2
reactant | NaH | 3 mmol, 0.12 g | [H-].[Na+]
reactant | 2-(diethylamino)-ethylchloride hydrochloride | 1 mmol, 0.172 mg | Cl.C(C)N(CCCl)CC
reactant | water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-(Diethylaminoethyl)-6-methoxy-(4-benzylpiperidinyl)-indole-5-carboxamide | 0.22 g | C(C)N(CC)CCN1C(=CC2=CC(=C(C=C12)OC)C(=O)N)N1CCC(CC1)CC1=CC=CC=C1 | C28H38N4O2
